US07932271B2
1) 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-5-methylpyridine
The 2-[(2,5-difluorophenyl)-hydroxymethyl]-5-methylpyridine (125 mg, 0.53 mmol) obtained in Referential Example 5 was dissolved in thionyl chloride (1.0 ml). To the resulting solution was added a catalytic amount of dimethylformamide. The resulting mixture was stirred for 14 hours. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration. The residue was dissolved in dimethylformamide (5 ml). To the resulting solution were added 4-chlorobenzenethiol (115 mg, 0.80 mmol) and potassium carbonate (438 mg, 3.18 mmol) under a nitrogen atmosphere. The resulting mixture was stirred at 50° C. for 1 hour. After the reaction mixture was cooled to room temperature, diethyl ether (50 ml) was added thereto. The resulting mixture was washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (hexane:ethyl acetate=10:1) to give the title compound (120 mg, 66%) as an oil.

reactant | 2-[(2,5-difluorophenyl)-hydroxymethyl]-5-methylpyridine | 0.53 mmol, 125 mg | FC1=C(C=C(C=C1)F)C(C1=NC=C(C=C1)C)O | C13H11F2NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-chlorobenzenethiol | 0.80 mmol, 115 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 3.18 mmol, 438 mg | C([O-])([O-])=O.[K+].[K+]
solvent | thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-5-methylpyridine | 120 mg, 66% | ClC1=CC=C(C=C1)SC(C1=NC=C(C=C1)C)C1=C(C=CC(=C1)F)F | C19H14ClF2NS
